US05958942
3-Methyl-2-[5-(trifluoromethanesulfonamido)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene
To a solution of 500 mg (1.82 mmol) of 3-methyl-2-[5-(amino)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene in 30 ml of acetonitrile were added 0.51 ml (3.66 mmol) of triethylamine and 1.302 g (3.66 mmol) of N-phenyltrifluoromethanesulfonamide. The mixture was stirred for two hours at room temperature. The solvent was distilled off. To the residue was added methylene chloride, which was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate) to afford 608 mg (82.1%, a pale yellow solid) of the desired compound.

reactant | 3-methyl-2-[5-(amino)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene | 1.82 mmol, 500 mg | CC=1N=C2N3C1C(=NC3=CC=C2)SCCCCCN | C14H18N4S
reactant | triethylamine | 3.66 mmol, 0.51 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonamide | 3.66 mmol, 1.302 g | C1(=CC=CC=C1)NS(=O)(=O)C(F)(F)F | C7H6F3NO2S
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 3-Methyl-2-[5-(trifluoromethanesulfonamido)pentan-1-ylthio]-1,4,7b-triazacyclopent[cd]indene | CC=1N=C2N3C1C(=NC3=CC=C2)SCCCCCNS(=O)(=O)C(F)(F)F | C15H17F3N4O2S2
